US06903129B2
To a solution of 170 mg (0.5 mmol) (R)-1-[6-[(R)-2-carboxy-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid and 137 ml (1 mmol) 2-chloro-N,N-diethylacetamide in 3 ml dimethylformamide were added 14.9 mg (0.1 mmol) sodium iodide and 139 ml (1 mmol) triethylamine. After stirring overnight at 90° C. the solvent was distilled off, the residue was taken up with dichloromethane and extracted with water. The organic extracts were dried with sodium sulfate and the solvent was distilled off to yield 260 mg (92%) of (R)-1-{6-[(R)-2-(diethylcarbamoyl-methoxycarbonyl)-pyrrolidin-1-yl]-6-oxo-hexanoyl}-pyrrolidine-2-carboxylic acid diethylcarbamoyl-methyl ester as a yellow oil, MS m/e (%): 567 (M+H+, 100).

reactant | (R)-1-[6-[(R)-2-carboxy-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid | 0.5 mmol, 170 mg | C(=O)(O)[C@@H]1N(CCC1)C(CCCCC(=O)N1[C@H](CCC1)C(=O)O)=O | C16H24N2O6
reactant | 2-chloro-N,N-diethylacetamide | 1 mmol, 137 ml | ClCC(=O)N(CC)CC | C6H12ClNO
reactant | sodium iodide | 0.1 mmol, 14.9 mg | [I-].[Na+]
reactant | triethylamine | 1 mmol, 139 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | (R)-1-{6-[(R)-2-(diethylcarbamoyl-methoxycarbonyl)-pyrrolidin-1-yl]-6-oxo-hexanoyl}-pyrrolidine-2-carboxylic acid diethylcarbamoyl-methyl ester | 260 mg, 92% | C(C)N(C(=O)COC(=O)[C@@H]1N(CCC1)C(CCCCC(=O)N1[C@H](CCC1)C(=O)OCC(N(CC)CC)=O)=O)CC | C28H46N4O8
